US06469003B1
Methanesulfonyl chloride (0.1 ml) was added to a solution of 6-acetyl-4-(4-aminophenylthio)-2-(4-fluorophenyl)-5-methyl-3(2H)-pyridazinone (185 mg) in pyridine (2 ml) at 5° C., followed by stirring at room temperature for 1 hour. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. After washing with a saturated aqueous sodium hydrogen carbonate solution and a brine, the organic layer was dried over anhydrous magnesium sulfate. The solvent was removed by evaporation, and the resulting residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:1), and was crystallized from ether to obtain 6-acetyl-2-(4-fluorophenyl)-5-methyl-4-(4-methylsulfonylaminophenylthio)-3(2H)-pyridazinone (180 mg) (Compound No. 4-01).

reactant | Methanesulfonyl chloride | 0.1 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 6-acetyl-4-(4-aminophenylthio)-2-(4-fluorophenyl)-5-methyl-3(2H)-pyridazinone | 185 mg | C(C)(=O)C=1C(=C(C(N(N1)C1=CC=C(C=C1)F)=O)SC1=CC=C(C=C1)N)C | C19H16FN3O2S
reactant | Water | O | H2O
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 6-acetyl-2-(4-fluorophenyl)-5-methyl-4-(4-methylsulfonylaminophenylthio)-3(2H)-pyridazinone | 180 mg | C(C)(=O)C=1C(=C(C(N(N1)C1=CC=C(C=C1)F)=O)SC1=CC=C(C=C1)NS(=O)(=O)C)C | C20H18FN3O4S2
